US07807702B2
Step C. 4′-tert-Butyl-2,6-dimethyl-biphenyl-4-thiol
To a solution of dimethyl-thiocarbamic acid S-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-yl) ester (8.8 g, 25.8 mmol) in methanol (65 mL) is added sodium methoxide (1.39 g, 25.8 mmol). The reaction mixture is heated to reflux overnight. After cooling to room temperature, the reaction mixture is neutralized with 5N HCl, concentrated to ⅓ volume, treated with brine, and extracted into dichloromethane. The aqueous layer is back-extracted with dichloromethane, and the combined organic layers are dried and concentrated. The resulting residue is applied to silica gel and eluted using hexanes with an ethyl acetate gradient from 0% to 50% to give the title compound (5.84 g).

reactant | dimethyl-thiocarbamic acid S-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-yl) ester | 25.8 mmol, 8.8 g | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1C)SC(N(C)C)=O)C | C21H27NOS
reactant | sodium methoxide | 25.8 mmol, 1.39 g | C[O-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | methanol | 65 mL | CO | CH4O
product | 4′-tert-Butyl-2,6-dimethyl-biphenyl-4-thiol | 5.84 g | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1C)S)C | C18H22S
